*
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

* supply voltage
Va 6 2 5.16821048288

* Resistances

R1 6 4 1.04053890347k

R2 7 4 2.00185929606k

R3 4 1 3.06593231919k

R4 1 2 4.15163583349k

R5 3 1 3.03409481751k

R6 2 5 2.05654586148k

R7 5aux 0 1.00587575204k

*Linearly dependent sources

Gb 3 7 4 1 7.29055867767m

Hc 1 0 Vaux 8.22649929708k

*Independent source

Id 0 3 1.0127707267m

Vaux 5 5aux DC 0





.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"
*print @gb[i]
*print @id[current]
*print @r1[i]
*print @r2[i]
*print @r3[i]
*print @r4[i]
*print @r5[i]
*print @r6[i]
*print @r7[i]
*print v(1)
*print v(2)
*print v(3)
*print v(4)
*print v(51)
*print v(52)
*print v(6)
*print v(7)

echo  "op_TAB"
*print @gb[i]
*print @id[current]
print @r1[i]
print @r2[i]
print @r3[i]
print @r4[i]
print @r5[i]
print @r6[i]
print @r7[i]
print v(1)
print v(2)
print v(3)
print v(4)
print v(5)
print v(6)
print v(7)
echo  "op_END"


quit
.endc

.end
